US04933355
Ethyl 2-(3-m-fluorophenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 5 g of ethyl 2-aminothiazol-4-ylglyoxylate, 4.9 g of m-fluorophenyl isocyanate and 30 ml of dimethylformamide. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 5 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | m-fluorophenyl isocyanate | 4.9 g | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-m-fluorophenylureido)thiazol-4-ylglyoxylate | FC=1C=C(C=CC1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12FN3O4S
